US07259183B2
Preparation of 2-(4-bromo-2-chloro-phenyl)-propan-2-ol
1.88 ml of a 3 molar solution of methyl magnesium bromide in ether were added dropwise to a solution of 470 mg (1.88 mmol) of 4-bromo-2-chloro-benzoic acid methyl ester [CAS 185312-82-7] in 20 ml THF at −78° C. The reaction mixture was then warmed to rt and stirred overnight. The mixture was then poured into sat. ammonium chloride solution and extracted with ether. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography (0 to 20% ether in pentane). The title compound was obtained as a colorless liquid (415 mg, 82%). 1H NMR (CDCl3, 300 MHz): δ 1.71 (s, 6H), 2.39 (s, 1H), 7.38 (dd, J=8.5 and 2.1 Hz, 1H), 7.52 (d, J=2.1 Hz, 1H), 7.58 (d, J=8.5 Hz, 1H).

reactant | methyl magnesium bromide | C[Mg]Br
reactant | 4-bromo-2-chloro-benzoic acid methyl ester | 1.88 mmol, 470 mg | COC(C1=C(C=C(C=C1)Br)Cl)=O | C8H6BrClO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | CCOCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-chloro-phenyl)-propan-2-ol | BrC1=CC(=C(C=C1)C(C)(C)O)Cl | C9H10BrClO
